US06506936B1
A mixture of methyl acrylate (6.0 g, 69.7 mmol) and p-methoxyphenethyl amine (10.5 g, 69.7 mmol) in anhydrous methanol (88 mL) was refluxed for 3 days and then was concentrated to give methyl 3-[(4-methoxyphenethyl)amino]-propionate (16.2 g). To a solution of methyl 3-[(4-methoxyphenethyl)amino]-propionate (3.0 g, 12.6 mmol) in anhydrous methylene chloride (35 mL) was added 3-nitrobenzenesulfonyl chloride (2.8 g, 12.6 mmol), followed by triethylamine (2.6 g, 25.3 mmol). After stirring for 18 h at room temperature, the mixture was quenched with 1 N HCl solution (150 mL) and extracted with methylene chloride (100 mL). Combined organic layers was washed successively with 1 N HCl solution (100 mL) and brine, dried over MgSO4, filtered, and concentrated. The crude product was purified by silica gel flash chromatography (2.5/1 to 2/1: hexanes/EtOAc) to provide methyl 3-[(4-methoxyphenethyl)-(4-cyanobenzenesulfonyl)-amino]-propionate (3.28 g, 7.8 mmol).

reactant | methyl acrylate | 69.7 mmol, 6.0 g | C(C=C)(=O)OC | C4H6O2
reactant | p-methoxyphenethyl amine | 69.7 mmol, 10.5 g | COC1=CC=C(CCN)C=C1 | C9H13NO
solvent | methanol | 88 mL | CO | CH4O
product | methyl 3-[(4-methoxyphenethyl)amino]-propionate | 16.2 g | COC1=CC=C(CCNCCC(=O)OC)C=C1 | C13H19NO3
